* c:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p1_opamps\parameterExtraction\ekvParameterExtractionEdited.asc
V1 N001 0 3.3
M1 N001 N001 0 0 N_130n l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1 l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1
M2 0 0 N001 N001 P_130n l=1.0u w=6.0u ad=1.2p as=1.2p pd=12.4u ps=12.4u m=1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maurovlachus\AppData\Local\LTspice\lib\cmp\standard.mos
.model N_130n nmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = 0.332
+ nch = 5.6000000e+17
+ nlx = 3.5500000e-07
+ k1 = 0.3661500
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 8.7500000
+ dvt1 = 0.7000000
+ dvt2 = 5.0000000e-02
+ eta0 = 4.0000000e-02
+ etab = 0.00
+ dsub = 0.5200000
+ ua = -1.8000000e-09
+ ub = 2.2000000e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = -0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 4.0000000e-02
+ voff = -7.9800000e-02
+ vsat = 1.3500000e+05
+ a1 = 0.00
+ a2 = 0.9900000
+ rdsw = 200
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 1.1000000
+ cit = 0.00
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 0.1000000
+ pdiblc1 = 1.2000000e-02
+ pdiblc2 = 7.5000000e-03
+ pdiblcb = -1.3500000e-02
+ drout = 0.2800000
+ pscbe1 = 8.6600000e+08
+ pscbe2 = 1.0000000e-20
+ pvag = -0.2800000
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 1.0000000
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.5e-08-(0/2)) }
+ ll = 0.00
+ lln = 1.0000000
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*1.3400000e-02)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 1.3400000e-02
.model P_130n pmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = -0.3499
+ nch = 6.8500000e+18
+ nlx = 1.6500000e-07
+ k1 = 0.4087000
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 5.0000000
+ dvt1 = 0.2600000
+ dvt2 = -1.0000000e-02
+ eta0 = 80.0000000
+ etab = 0.00
+ dsub = 1.8500000
+ ua = -1.4000000e-09
+ ub = 1.9499999e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = 0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 3.0300001e-02
+ voff = -9.10000000e-02
+ vsat = 1.0500000e+05
+ a1 = 0.00
+ a2 = 0.4000000
+ rdsw = 400
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 0.1250000
+ cit = 2.7999999e-03
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 2.5000000
+ pdiblc1 = 4.8000000e-02
+ pdiblc2 = 5.0000000e-05
+ pdiblcb = 0.1432509
+ drout = 9.0000000e-02
+ pscbe1 = 1.0000000e-20
+ pscbe2 = 1.0000000e-20
+ pvag = -6.0000000e-02
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 0.00
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.e-08-(0/2)) }
+ ll = 0.00
+ lln = 0.00
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*5.2000000e-03)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 5.2000000e-03
.dc V1 list 0.001 0.002337837837837838 0.0036756756756756758 0.005013513513513514 0.0063513513513513515 0.007689189189189189 0.009027027027027026 0.010364864864864865 0.011702702702702704 0.013040540540540543 0.014378378378378378 0.015716216216216217 0.017054054054054055 0.018391891891891894 0.01972972972972973 0.021067567567567568 0.022405405405405407 0.023743243243243246 0.025081081081081084 0.02641891891891892 0.02775675675675676 0.029094594594594597 0.030432432432432432 0.03177027027027027 0.03310810810810811 0.034445945945945945 0.03578378378378379 0.03712162162162162 0.03845945945945946 0.0397972972972973 0.041135135135135135 0.04247297297297298 0.04381081081081081 0.04514864864864865 0.04648648648648649 0.047824324324324326 0.04916216216216217 0.0505 0.05183783783783784 0.05317567567567568 0.054513513513513516 0.05585135135135135 0.057189189189189193 0.05852702702702703 0.059864864864864864 0.061202702702702706 0.06254054054054053 0.06387837837837838 0.06521621621621622 0.06655405405405405 0.06789189189189189 0.06922972972972974 0.07056756756756757 0.07190540540540541 0.07324324324324324 0.07458108108108108 0.07591891891891892 0.07725675675675676 0.0785945945945946 0.07993243243243243 0.08127027027027027 0.0826081081081081 0.08394594594594595 0.08528378378378379 0.08662162162162163 0.08795945945945946 0.0892972972972973 0.09063513513513514 0.09197297297297298 0.09331081081081082 0.09464864864864865 0.09598648648648649 0.09732432432432434 0.09866216216216217 0.10344525785223802 0.10998902544763456 0.11649350118824298 0.12295979780149685 0.12938899345939442 0.13578213339828726 0.14214023144865268 0.14846427148093017 0.15475520877303556 0.1610139713047306 0.1672414609836359 0.1734385548073189 0.17960610596555326 0.18574494488655152 0.19185588023069694 0.19793969983504378 0.20399717161162784 0.21002904440241427 0.21603604879351218 0.22201889789110812 0.22797828806140186 0.2339148996366756 0.2398293975894869 0.24572243217684336 0.25159463955609873 0.2574466423741967 0.26327905033178595 0.26909246072363496 0.27488745895668654 0.28066461904700774 0.28642450409681897 0.2921676667527105 0.297894649646093 0.3036059858168649 0.30930219912122425 0.31498380462449993 0.3206513089798261 0.3263052107934416 0.33194600097735033 0.3375741630900398 0.3431901736659199 0.34879450253410704 0.3543876131271484 0.35996996278025156 0.36554200302155426 0.3711041798539474 0.3766569340289362 0.38220070131300404 0.38773591274692326 0.39326299489843486 0.3987823701087043 0.4042944567329416 0.4097996693755581 0.4152984191202206 0.42079111375514533 0.4262781579939678 0.4317599536925065 0.4372369000617345 0.4427093938772575 0.4481778296855928 0.4536426000075318 0.4591040955388643 0.4645627053487343 0.47001881707589244 0.47547281712310363 0.480925090849966 0.486376022764391 0.49182599671299326 0.4972753960706345 0.5027246039293655 0.5081740032870068 0.5136239772356089 0.519074909150034 0.5245271828768964 0.5299811829241076 0.5354372946512657 0.5408959044611357 0.5463573999924682 0.5518221703144072 0.5572906061227424 0.5627630999382653 0.5682400463074934 0.5737218420060322 0.5792088862448546 0.5847015808797793 0.5902003306244418 0.5957055432670583 0.6012176298912956 0.606737005101565 0.6122640872530767 0.6177992986869959 0.6233430659710637 0.6288958201460525 0.6344579969784456 0.6400300372197484 0.6456123868728515 0.651205497465893 0.65680982633408 0.66242583690996 0.6680539990226498 0.6736947892065586 0.679348691020174 0.6850161953755002 0.6906978008787757 0.6963940141831351 0.702105350353907 0.7078323332472896 0.713575495903181 0.7193353809529923 0.7251125410433135 0.7309075392763651 0.7367209496682141 0.7425533576258033 0.7484053604439013 0.7542775678231566 0.760170602410513 0.7660851003633244 0.7720217119385981 0.7779811021088918 0.7839639512064878 0.7899709555975858 0.7960028283883722 0.8020603001649562 0.8081441197693031 0.8142550551134484 0.8203938940344467 0.826561445192681 0.8327585390163641 0.8389860286952694 0.8452447912269643 0.8515357285190697 0.8578597685513473 0.8642178666017126 0.8706110065406055 0.8770402021985031 0.8835064988117569 0.8900109745523652 0.8965547421477619 0.9031389505972232 0.909764786992064 0.9164334784474182 0.9231462941540928 0.9299045475597432 0.9367095986894602 0.9435628566167897 0.9504657820972329 0.9574198903774191 0.9644267541944112 0.9714880069810079 0.9786053462944841 0.9857805374879492 0.993015417645467 1.0 1.0315068493150685 1.063013698630137 1.0945205479452054 1.126027397260274 1.1575342465753424 1.189041095890411 1.2205479452054795 1.2520547945205478 1.2835616438356163 1.3150684931506849 1.3465753424657534 1.378082191780822 1.4095890410958902 1.441095890410959 1.4726027397260273 1.5041095890410958 1.5356164383561643 1.5671232876712327 1.5986301369863014 1.6301369863013697 1.6616438356164382 1.6931506849315068 1.724657534246575 1.7561643835616438 1.7876712328767121 1.8191780821917807 1.8506849315068492 1.8821917808219177 1.9136986301369863 1.9452054794520546 1.976712328767123 2.0082191780821916 2.0397260273972604 2.0712328767123287 2.102739726027397 2.1342465753424653 2.165753424657534 2.197260273972603 2.228767123287671 2.2602739726027394 2.2917808219178077 2.3232876712328765 2.3547945205479452 2.3863013698630136 2.417808219178082 2.44931506849315 2.480821917808219 2.5123287671232877 2.543835616438356 2.5753424657534243 2.6068493150684926 2.6383561643835614 2.66986301369863 2.7013698630136984 2.7328767123287667 2.7643835616438355 2.795890410958904 2.8273972602739725 2.858904109589041 2.890410958904109 2.921917808219178 2.953424657534246 2.984931506849315 3.0164383561643833 3.0479452054794516 3.0794520547945203 3.1109589041095886 3.1424657534246574 3.1739726027397257 3.205479452054794 3.2369863013698628 3.268493150684931 3.3
.backanno
.end
